US08466167B2
A solution of ethyl 5,6-dichloronicotinate (1 eq), zinc cyanide (0.75 eq) and tetrakis(triphenyl-phosphine)palladium (0.10 eq.) in DMF (0.3 M) was degassed and then heated at 100° C. for 3 hours. Solvent was removed en vaccuo to obtain a crude residue. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-80% ethyl acetate in hexane to give ethyl 5-chloro-6-cyanonicotinate as a white solid.

reactant | ethyl 5,6-dichloronicotinate | 1 eq | ClC=1C(=NC=C(C(=O)OCC)C1)Cl | C8H7Cl2NO2
reactant | DMF | 0.3 M | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.75 eq | [C-]#N.[Zn+2].[C-]#N
product | ethyl 5-chloro-6-cyanonicotinate | ClC=1C(=NC=C(C(=O)OCC)C1)C#N | C9H7ClN2O2
